US06509328B1
(4′-Fluoro-3-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-4′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G39) (151 mg, 0.5 mmol) and 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example H14) (190 mg, 0.63 mmol) according to the general procedure K. Obtained as an off-white solid (86 mg).

reactant | (3-amino-4′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 0.5 mmol, 151 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)N)=O | C17H19FN2O2
reactant | 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | 0.63 mmol, 190 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O | C17H19NO4
product | (4′-Fluoro-3-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester | 86 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C30H28FN3O5
